US08389508B2
1-{[3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,3,4-thiadiazol-2-yl)-2-ethylphenyl]methyl}-3-azetidinecarboxylic acid (50 mg, 0.106 mmol) was added to a mixture of THF (2 mL), water (0.6 mL) and ACN (1 mL), a suspension was obtained to which was added HBr solution (0.016 mL, 40%, wt). A clear solution was obtained and stirred for 30 min at rt. Solvent was removed under the reduced pressure and dried in vacuum to give 3-carboxy-1-(3-(5-(3-chloro-4-isopropoxyphenyl)-1,3,4-thiadiazol-2-yl)-2-ethylbenzyl)azetidin-1-ium bromide (56 mg) as pale yellow solid. δH (DMSO-d6, 600 MHz): 1.08 (3H, t), 1.35 (6H, m), 2.92 (2H, m), 3.67 (1H, m), 4.34 (4H, m), 4.61 (2H, m), 4.85 (1H, dt), 7.39 (1H, d), 7.48 (1H, m), 7.64 (2H, m), 7.97 (1H, d), 8.10 (1H, d), 10.25 (1H, s), 13.17 (1H, d).

reactant | 1-{[3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,3,4-thiadiazol-2-yl)-2-ethylphenyl]methyl}-3-azetidinecarboxylic acid | 0.106 mmol, 50 mg | ClC=1C=C(C=CC1OC(C)C)C1=NN=C(S1)C=1C(=C(C=CC1)CN1CC(C1)C(=O)O)CC | C24H26ClN3O3S
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | water | 0.6 mL | O | H2O
reactant | HBr | 0.016 mL | Br | BrH
solvent | ACN | 1 mL | C(C)#N | C2H3N
product | 3-carboxy-1-(3-(5-(3-chloro-4-isopropoxyphenyl)-1,3,4-thiadiazol-2-yl)-2-ethylbenzyl)azetidin-1-ium bromide | 56 mg | [Br-].C(=O)(O)C1C[NH+](C1)CC1=C(C(=CC=C1)C=1SC(=NN1)C1=CC(=C(C=C1)OC(C)C)Cl)CC | InChI=1S/C24H26ClN3O3S.BrH/c1-4-18-16(11-28-12-17(13-28)24(29)30)6-5-7-19(18)23-27-26-22(32-23)15-8-9-21(20(25)10-15)31-14(2)3;/h5-10,14,17H,4,11-13H2,1-3H3,(H,29,30);1H
